US05733906
The subtitled compound was prepared substantially in accordance with the procedure detailed in Example 33, using 0.17 g (0.55 mmol) of S-2-N(t-butoxycarbonyl)amino-3-p-fluoro-phenylthio propanoic acid, 0.22 g (0.55 mmol) of the subtitled intermediate of Preparation 3B and 0.07 g (0.55 mmol) of HOBT.H2O, and 0.11 g (0.55 mmol) of DCC in 4 mL of tetrahydrofuran and 0.5 mL of dimethylformamide to provide 0.39 g of a white solid.

reactant | HOBT | 0.55 mmol, 0.07 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | O | H2O
reactant | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | DCC | 0.55 mmol, 0.11 g, Yield: 100% | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
